US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 62% yield: mp 127-128° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) 8.57 (s, 1H), 8.45 (d, J=4.2 Hz, 1H), 7.66 (d, J=7.5 Hz, 1H), 7.22-7.07 (m, 6H), 6.51 (t, J=5.7 Hz, 1H), 4.54 (d, J=5.7 Hz, 2H), 3.98-3.92 (m, 2H), 3.49-3.43 (m, 2H), 3.31 (t, J=6.9 Hz, 2H), 2.61-2.50 (m, 5H), 1.91-1.82 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.4, 155.3, 153.6, 149.0, 148.6, 141.0, 135.8, 134.2, 128.4, 128.2, 126.1, 123.6, 116.7, 43.6, 42.1, 41.9, 41.3, 33.0, 28.7, 17.3; MS (ES+) m/z 436.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCC1=CC=CC=C1)=O | C17H19N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 62% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CCCC1=CC=CC=C1)=O | C23H25N5O2S
